data/oMe_Silver.jsonl
{"reaction_id": "NR-118_1-C_2-C(c1ccccc1)c2ccccc2_3-S(=O)(=O)c1ccccc1_4-C=Cc1ccccc1_5-c1ccccc1_6-C=Cc1ccccc1","name": "Johnson-Corey-Chaykovsky Reaction","level": "medium","reactants_smiles": ["C([H])(S(=O)(=O)c1ccccc1)(C=Cc1ccccc1)[S+](C)(C(c1ccccc1)c2ccccc2)","C(=O)(c1ccccc1)(C=Cc1ccccc1)"],"products_smiles": ["C1(S(=O)(=O)c1ccccc1)(C=Cc1ccccc1)OC1(c1ccccc1)(C=Cc1ccccc1)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](S(=O)(=O)c1ccccc1)(C=Cc1ccccc1)[S+](C)(C(c1ccccc1)c2ccccc2)","rationale": "The base abstracts the acidic α-proton adjacent to the positively charged sulfur, as the resulting carbanion is stabilized by the adjacent sulfonium through inductive and resonance effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-]C(c1ccccc1)(C=Cc1ccccc1)C(S(=O)(=O)c1ccccc1)(C=Cc1ccccc1)[S+](C)(C(c1ccccc1)c2ccccc2)","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, driven by the strong polarization of the C=O bond and stabilization of the resulting alkoxide by solvation under basic conditions."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(S(=O)(=O)c1ccccc1)(C=Cc1ccccc1)OC1(c1ccccc1)(C=Cc1ccccc1)","rationale": "The alkoxide oxygen intramolecularly attacks the adjacent carbon bearing the sulfonium, as the sulfonium is an excellent leaving group, facilitating ring closure to the strained but thermodynamically favorable epoxide."}],"description": "Under basic conditions, the sulfonium ylide is generated by deprotonation, enabling nucleophilic attack on the carbonyl to form a betaine intermediate. Intramolecular cyclization via displacement of the sulfonium group yields the epoxide product with retention of substituent patterns."}
{"reaction_id": "NR-141_1-C(F)(F)F_2-c1ccc2ccccc2c1","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(C(F)(F)F)(c1ccc2ccccc2c1)"],"products_smiles": ["C(O)(C(F)(F)F)(c1ccc2ccccc2c1)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(C(F)(F)F)(c1ccc2ccccc2c1)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(C(F)(F)F)(c1ccc2ccccc2c1)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(F)(F)F)(c1ccc2ccccc2c1)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
